US09034880B2
Preparation of 2,3,4,5-tetrahydro-2,8-dimethyl-5-(2-(1-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)ethyl)-1H-pyrido[4,3-b]indole (Compound 427)
The title compound is prepared from a mixture of 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole, 1-methyl-5-vinyl-1H-pyrrolo[2,3-b]pyridine and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | 1-methyl-5-vinyl-1H-pyrrolo[2,3-b]pyridine | CN1C=CC=2C1=NC=C(C2)C=C | C10H10N2
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 2,3,4,5-tetrahydro-2,8-dimethyl-5-(2-(1-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)ethyl)-1H-pyrido[4,3-b]indole | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC=2C=C3C(=NC2)N(C=C3)C)CC1 | C23H26N4
